US09416115B2
Diisopropylazodicarboxylate (0.38 mL, 0.70 mmol) was added under stirring to a solution of 5-bromobenzo[d]isoxazol-3-ol (100 mg, 0.47 mmol), triphenylphosphine (184 mg, 0.70 mmol), and oxetan-2-ylmethanol (62 mg, 0.70 mmol) in THF. The reaction mixture was stirred at ambient temperature overnight. Volatiles were evaporated under vacuum and the residue was purified on 12 g silica gel with 0-100% ethyl acetate in hexane and gave 5-bromo-3-(oxetan-2-ylmethoxy)benzo[d]isoxazole (114 mg, 0.40 mmol).

reactant | Diisopropylazodicarboxylate | 0.70 mmol, 0.38 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 5-bromobenzo[d]isoxazol-3-ol | 0.47 mmol, 100 mg | BrC=1C=CC2=C(C(=NO2)O)C1 | C7H4BrNO2
reactant | triphenylphosphine | 0.70 mmol, 184 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | oxetan-2-ylmethanol | 0.70 mmol, 62 mg | O1C(CC1)CO | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 5-bromo-3-(oxetan-2-ylmethoxy)benzo[d]isoxazole | 0.40 mmol, 114 mg | BrC=1C=CC2=C(C(=NO2)OCC2OCC2)C1 | C11H10BrNO3
